US04623652
1,1-Dimethyl-2-(methylaminocarbonylamino)ethylamine
A mixture of 5.7 g (0.1 mol) of methyl isocyanate and 20 ml of pyridine was stirred at 0° C. for 5 minutes and then slowly added to a solution of 20 g (0.23 mol) of 1,2-diamino-2-methylpropane in 30 ml of pyridine. The reaction mixture was warmed to 20° C. and stirred for 1 hour. Evaporation of the solvent in vacuo gave 11.6 g (90%) of product, recovered as an oil, which was identified by NMR and IR spectroscopy.

reactant | methyl isocyanate | 0.1 mol, 5.7 g | CN=C=O | C2H3NO
reactant | 1,2-diamino-2-methylpropane | 0.23 mol, 20 g | NCC(C)(C)N | C4H12N2
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 1,1-Dimethyl-2-(methylaminocarbonylamino)ethylamine | 11.6 g, 90% | CC(CNC(=O)NC)(C)N | C6H15N3O
